US06900210B2
Step A: (S)-[1-(3-Methoxy-phenyl)-ethyl]-carbamic acid tert-butyl ester
(S)-1-(3-Methoxy-phenyl)-ethylamine (50.0 g, 331 mmol) and Et3N (92 mL, 661 mmol) in CH2Cl2 (400 mL) was cooled to 0° C. and di-tert-Butyl dicarbonate (86.6 g, 397 mmol) was added. The mixture was warmed to room temperature and stirred for 1 h. then H2O (100 mL) was added, and the orgahic layer was separated, washed with brine (2×150 mL), dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated in vacuo to provide the title compound (83 g) as a white solid.

reactant | (S)-1-(3-Methoxy-phenyl)-ethylamine | 331 mmol, 50.0 g | COC=1C=C(C=CC1)[C@H](C)N | C9H13NO
reactant | Et3N | 661 mmol, 92 mL | CCN(CC)CC | C6H15N
reactant | di-tert-Butyl dicarbonate | 397 mmol, 86.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | H2O | 100 mL | O | H2O
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
product | (S)-[1-(3-Methoxy-phenyl)-ethyl]-carbamic acid tert-butyl ester | 83 g | C(C)(C)(C)OC(N[C@@H](C)C1=CC(=CC=C1)OC)=O | C14H21NO3
